data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_580783_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([O:7][H:9])[N:8]=[C:6]([C:4]([H:17])([H:18])[H:19])[C:5]([H:16])([H:20])[H:21]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])=[N:8][C:6]([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[O:7][H:9],63.95040749997975
MR_40067_1,[C:1]1([C:3]([C:4](/[C:5](=[N:8]/[H:10])[H:15])=[C:6]([H:16])[H:17])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:7]1>>[C:1]1([C:3]([C:4](/[C:5](=[N:8]/[H:10])[H:15])=[C:6]([H:16])[H:17])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:7]1,66.89965749998848
MR_463941_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:5]([N:7]([H:11])[H:12])[H:9])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:8]/[C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:6](\[C:4]([H:19])([H:20])[H:21])[N:8]([C:2]([H:13])([H:14])[H:15])[N:5]([N:7]([H:11])[H:12])[H:9])[H:10],58.076380000007504
MR_58658_1,[C@@:1]1([C:5]([H:15])([H:16])[H:17])([O:6][H:8])[C@:2]([C:3]([O:7][H:9])([H:11])[H:12])([H:10])[C:4]1([H:13])[H:14]>>[C:1]([C:4]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])([O:6][H:8])[O:7][H:9],62.17270000000937
MR_604840_0,[O:1]([O:2][H:5])[N:3]=[O:4]>>[O:1]=[N:3][O:4][O:2][H:5],26.47610749999842
MR_320575_0,[C:1](/[C:4](=[N:3]/[H:9])[C:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])[C:7](=[O:8])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:4]([N:3]([C:7](=[O:8])[H:12])[H:9])=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])([H:13])([H:14])[H:15],50.024927500004
MR_227133_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C@:2]([N:6]([H:11])[H:12])([H:9])[C@@:3]1([C:7](=[O:8])[H:13])[H:10]>>[C:1](/[C:3](=[C:2](\[N:6]([H:11])[H:12])[H:9])[H:10])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:7](=[O:8])[H:13],60.581359999996494
MR_37063_1,[C:1]([N:4]([C:6](=[O:8])[H:10])[H:9])(/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([H:9])[C:5]1([C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:17])([H:18])[H:19])([C:6](=[O:8])[H:10])[H:13],73.24995750000667
MR_470041_0,[C:1]1([H:10])([H:11])[N:3]([H:8])[N:5]([N:6]=[C:2]([H:12])[H:13])/[C:4]1=[N:7]\[H:9]>>[C:1]1([H:10])([H:11])[N:3]([H:8])[N:5]=[N:6][C:2]([H:12])([H:13])/[C:4]1=[N:7]\[H:9],60.90515000003506
MR_531043_0,[C:1]1([H:10])([H:11])/[C:3](=[N:7]/[H:9])[N:2]([O:5][H:8])[N:6]=[C:4]1[H:12]>>[C:1]1([H:10])([H:11])[C:3]([N:7][H:9])[C@:4]1([N:6][N:2][O:5][H:8])[H:12],57.90005249998899
MR_373186_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:6]([N:5]([C:4]([H:18])([H:19])[H:20])[H:9])=[O:8])[N:7]([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:5]([C:4]([H:18])([H:19])[H:20])[H:9])([C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])[N:7]([H:10])[H:11],64.68772000000868
MR_675823_0,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([O:8][H:9])[H:10])([C:3]([N:7]([H:15])[H:16])([H:17])[H:18])([N:5]([H:11])[H:12])[N:6]([H:13])[H:14]>>[C:1]([C:2]([C:3]([N:7]([H:15])[H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:8][H:9],70.21787749999305
MR_73246_0,[n:1]1([O:6][H:8])[c:3](=[O:7])[n:2]([H:9])[c:5]([H:11])[c:4]1[H:10]>>[N:1](=[C:4](/[C:5]1([H:11])[N:2]([H:9])[C:3]1=[O:7])[H:10])\[O:6][H:8],70.32831749999957
MR_40365_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:12])([O:6][H:7])([H:10])[H:11]>>[C:1](=[C:3](\[N:4]([H:8])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])([H:11])[H:12])(\[O:6][H:7])[H:10],66.89212750000749
MR_335418_0,[C:1]1([N:5]([H:12])[H:13])([H:10])[C:3]([H:14])([H:15])[C:2]([C:4]([H:17])([H:18])[H:19])([H:11])[C:6]([C:7]([H:9])([H:20])[H:21])([H:16])[O:8]1>>[C:1]([C:3]([C:2]([C:4]([H:17])([H:18])[H:19])([C:6](=[C:7]([H:20])[H:21])[H:16])[H:11])([H:14])[H:15])([N:5]([H:12])[H:13])([O:8][H:9])[H:10],64.76113750003734
MR_44061_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:9])[N:4]([H:8])[C:5](=[O:7])[C:2]([H:10])([H:11])[O:6]1>>[C:1](\[C:3]([H:12])([H:13])[H:14])(=[N:4]/[C:5]([C:2]([O:6][H:8])([H:10])[H:11])=[O:7])[H:9],66.42714999996869
MR_77482_0,[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:7](/[C:6]1([C:4]([H:16])([H:17])[H:18])[C:2]([H:10])([H:11])[C:5]1=[O:8])[H:12])[H:9]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:5](=[O:8])[C:2]([H:10])([H:11])[C:6]([C:4]([H:16])([H:17])[H:18])=[C:7]1[H:12],42.755967499986696
MR_374363_0,[C:1]([C:4](=[C:3](/[N:6]([H:11])[H:12])[O:9][H:10])/[C:8](=[C:5](\[C:2]([H:19])([H:20])[H:21])[N:7]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[C:8]([H:15])[C:5]([C:2]([H:19])([H:20])[H:21])([N:7]([H:13])[H:14])[C:3]1([N:6]([H:11])[H:12])[O:9][H:10])([H:16])([H:17])[H:18],38.52724499999809
MR_409516_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:10])[C:2]([H:11])([H:12])[C:8]([C:5]([H:19])([H:20])[H:21])=[C:7]([C:4]([H:16])([H:17])[H:18])[N:6]1[H:9]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:10])[C:2]([H:11])([H:12])[C:8]1([C:5]([H:19])([H:20])[H:21])/[C:7]([C:4]([H:16])([H:17])[H:18])=[N:6]/[H:9],64.7492149999961
